Code Model Test - 2d Table Model
* bsim4 transistor dc input and output characteristics
*
*** analysis type ***
.control
dc V1 -0.1 1.7 0.06 V2 0.3 1.7 0.3
plot i(Vs)
plot deriv(i(Vs))
reset
dc v2 0 1.7 0.04
plot i(Vs)
plot deriv(i(Vs))
reset
dc V1 -0.1 1.7 0.06
plot i(Vs2)
.endc
*
*** input sources ***
*
v1 d 0 DC 0.1
*
v2 g 0 DC 1.5
*
Vs s 0 0
Vs2 s2 0 0
*
*** table model of mos transistor ***
amos1 %vd(d s) %vd(g s) %id(d s) mostable1
.model mostable1 table2d (offset=0.0 gain=0.5 order=3 file="bsim4n-2d-3.table")
* L=0.13u W=10.0u rgeoMod=1
* BSIM 4.7
* change width of transistor by modifying parameter "gain"
* source is always tied to bulk (2d model!)

amos2 %vd(d s2) %vd(d s2) %id(d s2) mostable1

.end
